US07531532B2
3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
3-[4-(2-Fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea (243 mg) was dissolved in tetrahydrofuran (6 ml)-methanol (6 ml), and then 10% palladium carbon (128 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the reaction system and stirring for 3 hrs. After replacing with nitrogen inside the system, the catalyst was filtered and washed with methanol. The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate) and concentrated under a reduced pressure to provide the titled compound (175 mg, 78.0%) as pale yellow powder.

reactant | 3-[4-(2-Fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 243 mg | FC1=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=CC(=C1)[N+](=O)[O-] | C19H22FN5O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
catalyst | palladium carbon | 128 mg | [C].[Pd]
product | 3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 175 mg, 78.0% | NC1=CC(=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C19H24FN5O2
